US07732365B2
(+)-1-(1-Phenyl-2-propenyl)pyrrolidine (Table 8, Entry 6).
A stock solution containing [(COD)IrCl]2 (3.4 mg, 0.0050 mmol) and L1 (10.8 mg, 0.0200 mmol) in 1.0 mL of THF was prepared. By the procedure for reaction of benzylamine with methyl cinnamyl carbonate, the reaction of pyrrolidine (85.0 mg, 1.19 mmol) and methyl cinnamyl carbonate (201.5 mg, 1.049 mmol) was conducted at room temperature for 16 h. 1H NMR analysis of the crude mixture showed the ratio of branched to linear product to be 99/1. After purification, 121 mg of the title compound (61%) was isolated and HPLC analysis as described above indicated that the enantiomeric excess of the major product was 97%.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | methyl cinnamyl carbonate | C(OC)(OCC=CC1=CC=CC=C1)=O | C11H12O3
reactant | pyrrolidine | 1.19 mmol, 85.0 mg | N1CCCC1 | C4H9N
reactant | methyl cinnamyl carbonate | 1.049 mmol, 201.5 mg | C(OC)(OCC=CC1=CC=CC=C1)=O | C11H12O3
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | (+)-1-(1-Phenyl-2-propenyl)pyrrolidine | 121 mg, 61% | C1(=CC=CC=C1)C(C=C)N1CCCC1 | C13H17N
